US08497278B2
6-Methyl-3-(5-methyl-[1,3,4]thiadiazol-2-ylsulfanylmethyl)-2-p-tolyl-imidazo[1,2-a]pyridine (179)
The title compound was prepared according to Method A and the experimentals described for compound 139 from 3-(chloromethyl)-6-methyl-2-p-tolylimidazo[1,2-a]pyridine hydrochloride and 5-methyl-1,3,4-thiadiazole-2-thiol. m/e− 367 for C19H19N4S2 [M+H]+; 1H-NMR (400 MHz, CDCl3) δ 8.27 (s, 1H), 7.86 (d, J=8.0 Hz, 2H), 7.55 (d, J=9.1 Hz, 1H), 7.28 (d, J=8.0 Hz, 2H), 7.09 (dd, J=1.4, 9.1 Hz, 1H), 5.83 (s, 2H), 2.40 (s, 3H), 2.37 (s, 3H), 2.33 (s, 3H) ppm; 13C-NMR (100 MHz, CDCl3, δ) 186.983, 156.637, 146.840, 144.588, 138.165, 131.265, 129.597, 128.800, 128.649, 122.931, 122.787, 116.971, 113.923, 44.131, 21.557, 18.638, 16.606 ppm.

reactant | 3-(chloromethyl)-6-methyl-2-p-tolylimidazo[1,2-a]pyridine hydrochloride | Cl.ClCC1=C(N=C2N1C=C(C=C2)C)C2=CC=C(C=C2)C
reactant | 5-methyl-1,3,4-thiadiazole-2-thiol | CC1=NN=C(S1)S | C3H4N2S2
product | 6-Methyl-3-(5-methyl-[1,3,4]thiadiazol-2-ylsulfanylmethyl)-2-p-tolyl-imidazo[1,2-a]pyridine | CC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)C)CSC=2SC(=NN2)C | C19H18N4S2
